US08791130B2
A suspension of 5-chloro-2-methoxy-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)benzoic acid (144 mg, 50% pure material, 0.19 mmol), HATU (85 mg, 0.22 mmol), acetic hydrazide (16 mg, 0.22 mmol) and DIPEA (81 uL, 0.46 mmol) in dichloromethane (4 mL) was stirred at room temperature for 18 h. The mixture was diluted with dichloromethane (10 mL) and washed with saturated aqueous NaHCO3 solution (10 mL). A solid persisted in the aqueous layer; this was filtered, washed with water and then suspended in methanol. The solid was collected by filtration and dried in a vacuum oven to afford N′-acetoyl-5-chloro-2-methoxy-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)benzohydrazide as a white solid (68 mg, 85%). This was taken through to the next step without further purification.

reactant | 5-chloro-2-methoxy-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)benzoic acid | 0.19 mmol, 144 mg | ClC=1C(=CC(=C(C(=O)O)C1)OC)NC1=NC=C(C(=N1)NC)C(F)(F)F | C14H12ClF3N4O3
reactant | HATU | 0.22 mmol, 85 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | acetic hydrazide | 0.22 mmol, 16 mg | C(C)(=O)NN | C2H6N2O
reactant | DIPEA | 0.46 mmol, 81 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N′-acetoyl-5-chloro-2-methoxy-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)benzohydrazide | 68 mg, 85% | C(C)(=O)NNC(C1=C(C=C(C(=C1)Cl)NC1=NC=C(C(=N1)NC)C(F)(F)F)OC)=O | C16H16ClF3N6O3
